US07642367B2
2-(5-Bromo-2-chloro-4-methoxy-phenyl)-2-methyl-propionitrile
A solution of 2-(2-chloro-4-methoxy-phenyl)-2-methyl-propionitrile (17.5 g, 0.0835 mol) in TFA (100 mL) was cooled to 0° C. N-bromosuccinimide (14.9 g, 0.0835 mol) was added in small portions keeping the temperature below 5° C. The orange solution was stirred for 2 h/25° C. and evaporated to dryness. Water (200 mL) was added and the mixture was stirred vigorously for 1 h. The crude product was filtered off and recrystallized from boiling MeOH. The pure product was isolated as white needles. Yield: 13 g (54%). GCMS: >99%

reactant | 2-(2-chloro-4-methoxy-phenyl)-2-methyl-propionitrile | 0.0835 mol, 17.5 g | ClC1=C(C=CC(=C1)OC)C(C#N)(C)C | C11H12ClNO
reactant | N-bromosuccinimide | 0.0835 mol, 14.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(5-Bromo-2-chloro-4-methoxy-phenyl)-2-methyl-propionitrile | BrC=1C(=CC(=C(C1)C(C#N)(C)C)Cl)OC | C11H11BrClNO
